US06495546B1
A mixture of 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (4.21 g) and sodium methoxide (2.21 g) in formamide (42 ml) was heated at 110° C. for 2 hours. After cooling, the reaction mixture was poured into water, and the product was extracted with ethyl acetate. The organic layer was washed with water (twice) and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (30:1 to 10:1) to afford 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxamide (2.71 g).

reactant | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 4.21 g | COC(=O)C=1C=CC2=C(CC(CCC2)NCC2=CC=CC=C2)C1 | C20H23NO2
reactant | sodium methoxide | 2.21 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | formamide | 42 ml | C(=O)N | CH3NO
product | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxamide | 2.71 g | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)C(=O)N | C19H22N2O
